US07777038B2
0.96 g of 5-[1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-4-ylmethylidene]thiazolidine-2,4-dione, 0.735 g of diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate, and 0.96 g of silica gel were added to 30 ml of toluene, followed by heating and refluxing overnight. The solvent was distilled off, and the residue was purified by silica gel column chromatography (dichloromethane:ethyl acetate of 10:1→3:1), and the purified product was recrystallized from a chloroform-ether mixed solvent, giving 0.87 g (91% yield) of 5-[1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-4-ylmethyl]thiazolidine-2,4-dione as a white powder.

reactant | 5-[1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-4-ylmethylidene]thiazolidine-2,4-dione | 0.96 g | ClC1=CC=C(CN2C(C=C(C3=CC=CC=C23)C=C2C(NC(S2)=O)=O)=O)C=C1 | C20H13ClN2O3S
reactant | diethyl 1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 0.735 g | CC=1NC(=C(CC1C(=O)OCC)C(=O)OCC)C | C13H19NO4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[1-(4-chlorobenzyl)-2-oxo-1,2-dihydroquinolin-4-ylmethyl]thiazolidine-2,4-dione | 0.87 g, 91% yield | ClC1=CC=C(CN2C(C=C(C3=CC=CC=C23)CC2C(NC(S2)=O)=O)=O)C=C1 | C20H15ClN2O3S
